US03971772
A solution of 4.4 g of 9-fluoro-11β,17,21-trihydroxy-16α-[2-(tetrahydropyran-2-yloxy)ethoxy]pregn-4-ene-3,20-dione, 21-acetate in 60 ml each of acetic acid and water is stirred for 4 hours and the bulk of the solvent removed in vacuo. The residue is dissolved in chloroform and washed with 5% sodium bicarbonate solution. Drying and solvent removal gives an oil which crystallizes from acetone-hexane to give 2.4 g of 9-fluoro-11β,17,21-trihydroxy-16α-(2-hydroxyethoxy)pregn-4-ene-3,20-dione, 21-acetate, melting point 162°-165°C.

reactant | 9-fluoro-11β,17,21-trihydroxy-16α-[2-(tetrahydropyran-2-yloxy)ethoxy]pregn-4-ene-3,20-dione | 4.4 g | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CO)=O)([C@]1(C[C@@H]2O)C)O)OCCOC2OCCCC2)=O)C | C28H41FO8
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 9-fluoro-11β,17,21-trihydroxy-16α-(2-hydroxyethoxy)pregn-4-ene-3,20-dione | 2.4 g | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CO)=O)([C@]1(C[C@@H]2O)C)O)OCCO)=O)C | C23H33FO7
